US08492549B2
(S)-2-[(R*)-3-(3-Hydroxy-phenyl)-piperidin-1-ylmethyl]-2,3-dihydro-benzo[1,4]dioxin-6-ol
To a solution of 10% Pd/C (33 mg) in EtOAc (10 ml) was added 3-[(R*)-1-((S)-6-benzyloxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol (66 mg, 0.125 mmol). The mixture was stirred under hydrogen for 3 h at normal pressure. The mixture was then filtered and evaporated to give an oil. After trituration with diethyl ether the title compound was obtained as a white solid (40 mg).

reactant | 3-[(R*)-1-((S)-6-benzyloxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol | 0.125 mmol, 66 mg | C(C1=CC=CC=C1)OC1=CC2=C(O[C@H](CO2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O)C=C1 | C27H29NO4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 33 mg | [Pd] | Pd
product | (S)-2-[(R*)-3-(3-Hydroxy-phenyl)-piperidin-1-ylmethyl]-2,3-dihydro-benzo[1,4]dioxin-6-ol | OC=1C=C(C=CC1)[C@@H]1CN(CCC1)C[C@H]1COC2=C(O1)C=CC(=C2)O | C20H23NO4
